US04730006
(δ,δ-difluoro-ε-carboxylysine)
2,6-di-t-butoxycarbonylamino-3,3-difluoro-1,7-heptanedioic acid (34 mg, 0.08 mmoles) is dissolved in dry ether saturated with HCl gas. After standing overnight and filtration, the title compound is obtained as a white solid (9 mg, 38%, RF: 0.4 (ethanol, conc. ammonia: 70/30, RF: 0.1 (butanol/acetic acid/water: 4/2/2)

reactant | 2,6-di-t-butoxycarbonylamino-3,3-difluoro-1,7-heptanedioic acid | 0.08 mmoles, 34 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C(CCC(C(=O)O)NC(=O)OC(C)(C)C)(F)F | C17H28F2N2O8
solvent | ether | CCOCC | C4H10O
solvent | HCl | Cl | ClH
product | δ,δ-difluoro-ε-carboxylysine | FC(CC[C@H](N)C(=O)O)(C(N)C(=O)O)F | C7H12F2N2O4
